.SUBCKT OAI33X1P4H7R A0 A1 A2 B0 B1 B2 VDD VSS Y
*.PININFO A0:I A1:I A2:I B0:I B1:I B2:I Y:O VDD:B VSS:B
MMNM5 Y B2 net52 VSS nm1p2_svt_lp W=245n L=60n m=1
MMNM4 Y B1 net52 VSS nm1p2_svt_lp W=245n L=60n m=1
MMNM3 Y B0 net52 VSS nm1p2_svt_lp W=245n L=60n m=1
MMNM2 net52 A2 VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMNM1 net52 A1 VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMNM0 net52 A0 VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMPM5 Y B2 net15 VDD pm1p2_svt_lp W=314n L=60n m=1
MMPM4 net15 B1 net23 VDD pm1p2_svt_lp W=314n L=60n m=1
MMPM3 net23 B0 VDD VDD pm1p2_svt_lp W=314n L=60n m=1
MMPM2 Y A2 net11 VDD pm1p2_svt_lp W=314n L=60n m=1
MMPM1 net11 A1 net19 VDD pm1p2_svt_lp W=314n L=60n m=1
MMPM0 net19 A0 VDD VDD pm1p2_svt_lp W=314n L=60n m=1
.ENDS
